US05869501
Ethyl[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]acetate (500 mg) was dissolved in 10 ml of acetonitrile, 0.52 ml of methyl iodide and 136 mg of potassium carbonate were added to the solution, and the mixture was stirred under reflux for 5 hours and 30 minutes. After cooling the reaction solution, the precipitate was removed by filtration, and the resulting filtrate was concentrated under a reduced pressure. The resulting residue was applied to silica gel column chromatography, which was eluted with hexane:ethyl acetate (3:1) to give 415 mg of ethyl 2-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]propionate.

reactant | Ethyl[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]acetate | 500 mg | C(C)OC(CS(N(CC1=CC2=CC(=CC=C2C=C1)C#N)C1=CC=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)(=O)=O)=O | C32H37N3O7S
reactant | methyl iodide | 0.52 ml | CI | CH3I
reactant | potassium carbonate | 136 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | ethyl 2-[N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]sulfamoyl]propionate | 415 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(S(=O)(=O)C(C(=O)OCC)C)CC1=CC2=CC(=CC=C2C=C1)C#N | C33H39N3O7S
